US06720322B2
To a solution of 6.1 g of 4,6-dichloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine (Example 1, Section a) to d)) in 100 ml of dry DMF 8.8 g of 4-tert.-butyl benzene sulfonamide potassium salt was added at room temperature. The solution was stirred over night at room temperature. The solution was added to a mixture of 150 ml of water and 100 ml of diethyl ether. The pH was adjusted to 5 by adding acetic acid. The precipitate that formed was collected, washed with water and diethyl ether. The resulting powder was suspended in boiling ethyl acetate. The mixture was allowed to cool in an icebath. Eventually, the solid material was collected and dried to yield 6.6 g of 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)4-pyrimidinyl]-benzene sulfonamide as beige crystals. LC-MS: tR=5.80 min, [M+1]+=525.31, [M−1]−=523.48.

reactant | 4,6-dichloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine | 6.1 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C16H11Cl2N3O2
reactant | 4-tert.-butyl benzene sulfonamide potassium salt | [K+].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[NH-]
reactant | water | 150 ml | O | H2O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | DMF | 100 ml, 8.8 g | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-tert.-butyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)4-pyrimidinyl]-benzene sulfonamide | 6.6 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C26H25ClN4O4S
